### PR TITLE
[Merged by Bors] - feat(CategoryTheory): another constructor for ComposableArrows

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, given objects `obj : Fin (n + 1) → C` and `mapSucc i : obj i.castSucc ⟶ obj i.succ` (i.e. a sequence of morphisms), we construct `mkOfObjOfMapSucc obj mapSucc : ComposableArrows C n`. On objects, this constructor has good definitional properties.

---
- [x] depends on: #8475
- [x] depends on: #8490
- [x] depends on: #8491

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/ComposableArrows.lean [hunk 1]
```diff
@@ -810,6 +810,54 @@ lemma mk₅_surjective (X : ComposableArrows C 5) :
...
+      | ⟨i + 1, hi⟩ => e _, fun i hi => _⟩
+    obtain _ | i := i
+    · dsimp
+      rw [assoc, Iso.inv_hom_id, comp_id]
+      erw [id_comp]
+    · exact h i (by linarith)
+
+/-- Given `obj : Fin (n + 1) → C` and `mapSucc i : obj i.castSucc ⟶ obj i.succ`
+for all `i : Fin n`, this is `F : ComposableArrows C n` such that `F.obj i` is
+definitionally equal to `obj i`, see  -/
```
Comment (erdOne) [inline Mathlib/CategoryTheory/ComposableArrows.lean:842]: This sentence is not finished.

Comment (joelriou) [reply Mathlib/CategoryTheory/ComposableArrows.lean]: Thanks! I have just fixed this.

File: Mathlib/CategoryTheory/NatIso.lean [hunk 2]
```diff
@@ -264,4 +264,23 @@ theorem isIso_map_iff {F₁ F₂ : C ⥤ D} (e : F₁ ≅ F₂) {X Y : C} (f : X
...
 
+namespace Functor
+
+variable (F : C ⥤ D) (obj : C → D) (e : ∀ X, F.obj X ≅ obj X)
+
+/-- Constructor for a functor that is isomorphic to a given functor `F : C ⥤ D`,
+while being definitionally equal on objects to a given map `obj : C → D`
+such that for all `X : C`, we have an isomorphism `F.obj X ≅ obj X`. -/
+@[simps obj]
+def mkOfFunctorOfObj : C ⥤ D where
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/NatIso.lean:275]: We often use `copy` as the name for a decl that changes some data up to propeq, for better defeqs. Since you only change `obj`, maybe this could be called
```suggestion
def copyObj : C ⥤ D where
```

Comment (joelriou) [reply Mathlib/CategoryTheory/NatIso.lean]: Thanks very much for all these reviews! and for this suggestion, which I have just applied.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
